data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1082,1179,[CH3:13][O:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([CH3:20])[C:21]#[N:22].[CH3:1][NH:2][C:3](=[O:4])/[C:5]([Cl:6])=[C:7](/[Cl:8])[C:9](=[O:10])[NH:11][CH3:12]>>[CH3:1][NH:2][C:3](=[O:4])[C@:5]1([Cl:6])[C@:7]([Cl:8])([C:9](=[O:10])[NH:11][CH3:12])[C:19]([CH3:20])([C:21]#[N:22])[N:18]=[C:17]1[C:15]([O:14][CH3:13])=[O:16],water,298.15,18.530731908147885,-33.74115767387597
1525,1682,[CH3:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[O+:20][C-:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[O:20][C:17]2([C:15]([CH3:14])=[O:16])[C:18]#[N:19],water,298.15,7.272470193611207,-37.91082466335413
3298,3737,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][c-:6]1[o+:7][c:8](-[c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[o:15][c:16]1=[O:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:6]2([CH3:5])[O:7][C:8]1([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[O:15][C:16]2=[O:17],water,298.15,17.972061707015087,-26.50259893077412
3965,4538,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19]([CH3:20])=[O:21])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,15.497697413431055,-38.94189507423263
3576,4082,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[N+:16]#[C:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([C:18]#[N:19])=[N:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,20.517497488089987,-35.092567677971644
3585,4091,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[CH:10]=[N+:11]([CH3:12])[N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:11]([CH3:12])[CH:10]1[C:8]([CH3:7])=[O:9],water,298.15,23.35167978310143,-8.890510022916981
451,493,[CH3:13][O:14][C:15](=[O:16])[C:17]([CH3:18])=[O+:19][O-:20].[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:17]([C:15]([O:14][CH3:13])=[O:16])([CH3:18])[O:19][O:20]2,water,298.15,14.936543462539678,-34.58350904899448
3427,3897,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[N:11]=[N+:12]([CH3:13])[N-:14][C:15]([CH3:16])=[O:17]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:14]([C:15]([CH3:16])=[O:17])[N:12]([CH3:13])[N:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,30.38326826357153,-14.685509523520665
1237,1352,[CH2-:12][N+:13]([CH3:14])=[C:15]([CH3:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:15]([CH3:16])([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[N:13]([CH3:14])[CH2:12]3,water,298.15,13.3082013284525,-53.022658318489405
1134,1233,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15](=[O:16])[O:17][CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([F:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:21]([C:22]#[N:23])([C:24]#[N:25])[N:19]([CH3:20])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[O:17][CH3:18],water,298.15,21.463314156560045,-38.02732607219667
291,315,[CH3:9][O:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][C:16]([CH3:17])=[O:18].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[CH:13]([C:11]([O:10][CH3:9])=[O:12])[NH:14][N:15]3[C:16]([CH3:17])=[O:18],water,298.15,19.89776175105121,-34.856400760622414
1675,1847,[CH3:15][O:16][C:17](=[O:18])[C-:19]([C:20]#[N:21])[N+:22]#[C:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][C:2]12[C:3]([c:4]3[cH:5][cH:6][cH:7][cH:8][cH:9]3)([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)=[N:22][C:19]2([C:17]([O:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,29.79609807270061,-25.54182860736132
2539,2819,[CH3:16][O:17][C:18](=[O:19])[C:20]#[N+:21][CH-:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:21]=[C:20]2[C:18]([O:17][CH3:16])=[O:19],water,298.15,7.730376024632634,-66.46881129162445
